US08541362B2
All reactions reported in this invention were carried in oven-dried three-necked, round-bottomed flasks equipped with a Teflon-coated magnetic stirring bar. The reaction flask was purged with nitrogen, and during the entire operation, the reaction was under nitrogen. To a stirred solution of cyclopropanamine (0.615 g, 10.78 mmol) in 25 mL of dried THF, triethylamine (1.20 g, 11.90 mmol) was added in one portion. After the reaction had been cooled to about 0° C., methyl 10-chloro-10-oxodecanoate (2.53 g, 10.78 mmol) in 5 mL of THF was added dropwise via an addition funnel. After the addition, the reaction was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was subjected to roto-vap distillation to remove the majority of solvent, and the residue was poured with stirring into a mixture of ice-water containing 10 mL of HCl aqueous 2N solution (20 mmol) leading to the immediate precipitation of a white solid. Stirring was continued for an additional 30 min, and then the precipitation was filtered off with suction through a sintered glass funnel. The collected solid was washed with two 50-mL portions of water. The NMR analysis of a dried sample of the material confirmed the structure of the desired ester. The GC retention time of the ester is 12.79 min. The ester was saponified with 20 mL of NaOH aqueous 2N solution (40 mmol) at room temperature overnight. Ice was added to the reaction and acidification with a 30 mL of HCl aqueous 2N solution (60 mmol) led to the immediate precipitation of a white solid. Stirring was continued for an additional 30 min, and then the precipitation was filtered off with suction through a sintered glass funnel. The collected solid was successively washed with three 50-mL portions of water, and two 25-mL portions of hexane. The collected solid was dried in vacuo for two days at ambient temperature to afford 1.81 g (70%) of 10-(cyclopropylamino)-10-oxodecanoic acid as a white solid. HPLC: Rt: 3.52 min. 1H NMR (400 MHz DMSO-d6) δ: 0.25 (m, 2H), 0.48 (m, 2H), 1.14 (m, 9H), 1.37 (m, 4H), 1.89 (m, 2H), 2.09 (m, 2H), 7.70 (br. s, 1H), 1.850 (s, 1H). 13C NMR (100 MHz DMSO-d6) δ: 5.60(C2 & C3), 22.0(C8), 24.46(C13), 25.18(C1), 28.63(C9, C10, C11 & C12), 33.64(C14), 35.0(C7), 173.2(C5), 174.45(C15). LC/MS m/z: 242 [(M+1)+].

reactant | cyclopropanamine | 10.78 mmol, 0.615 g | C1(CC1)N | C3H7N
reactant | triethylamine | 11.90 mmol, 1.20 g | C(C)N(CC)CC | C6H15N
reactant | methyl 10-chloro-10-oxodecanoate | 10.78 mmol, 2.53 g | ClC(CCCCCCCCC(=O)OC)=O | C11H19ClO3
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 2N, 20 mL | [OH-].[Na+]
reactant | HCl | 2N, 30 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 10-(cyclopropylamino)-10-oxodecanoic acid | 1.81 g, 70% | C1(CC1)NC(CCCCCCCCC(=O)O)=O | C13H23NO3
